US05100459
a) 4-Chloro-1,2-benzisothiazol-3-one-1,1-dioxide
504 g (2.02 mol) of methyl 6-chloro-2-aminosulfonylbenzoate was added in portions to a solution of 80 g (2.0 mol) of sodium hydroxide in 2.5 liters of water; the temperature rose from 25° C. to 50° C. After 30 minutes at this temperature, the mixture was cooled to 25° C. and extracted with methyl tert-butyl ether, and the aqueous phase was stirred into 2N hydrochloric acid. The precipitate was isolated, washed with water and dried. There was obtained 330 g (75.8% of theory) of the title compound, m.p.: 210°-212° C.

reactant | methyl 6-chloro-2-aminosulfonylbenzoate | 2.02 mol, 504 g | ClC1=CC=CC(=C1C(=O)OC)S(=O)(=O)N | C8H8ClNO4S
reactant | sodium hydroxide | 2.0 mol, 80 g | [OH-].[Na+]
solvent | water | 2.5 liters | O | H2O
product | 4-Chloro-1,2-benzisothiazol-3-one-1,1-dioxide | ClC1=CC=CC2=C1C(NS2(=O)=O)=O | C7H4ClNO3S
